US06982274B2
(E)-3-[3-(3-Fluorophenyl)-1H-5-indazolyl]-2-propenoic acid
To a solution of 0.16 g of ethyl (E)-3-[3-(3-fluorophenyl)-1H-5-indazolyl]-2-propenoate in methanol was added 1 ml of 5 N aqueous sodium hydroxide solution, and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was added with diluted hydrochloric acid to be acidic and was extracted with ethyl acetate for two times. The organic layer was washed with water, dried over anhydrous magnesium sulfate and the solvent was evaporated, to give 90 mg of the title compound as a colorless powder.

reactant | ethyl (E)-3-[3-(3-fluorophenyl)-1H-5-indazolyl]-2-propenoate | 0.16 g | FC=1C=C(C=CC1)C1=NNC2=CC=C(C=C12)/C=C/C(=O)OCC | C18H15FN2O2
reactant | sodium hydroxide | 5 N, 1 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | CO | CH4O
product | (E)-3-[3-(3-Fluorophenyl)-1H-5-indazolyl]-2-propenoic acid | 90 mg | FC=1C=C(C=CC1)C1=NNC2=CC=C(C=C12)/C=C/C(=O)O | C16H11FN2O2
